US07115784B2
Preparation of 1-(4-ethoxycarbonylphenyl)indole at 80° C.
Using the general procedure, indole (0.117 g, 1.00 mmol) was coupled at 80° C. with ethyl-4-iodobenzoate (0.331 g, 1.20 mmol) using CuI (9.5 mg, 0.050 mmol, 5.0 mol %), K3PO4 (2.1 mmol), trans-N,N′-dimethyl-1,2-cyclohexanediamine (32 μL, 0.20 mmol, 20 mol %) and toluene (1.0 mL) to give the crude product. The above product was identified by comparison (GC) to a previously prepared sample and the GC yield was determined to be 96%.

reactant | indole | 1.00 mmol, 0.117 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethyl-4-iodobenzoate | 1.20 mmol, 0.331 g | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
reactant | K3PO4 | 2.1 mmol | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 0.20 mmol, 32 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.050 mmol, 9.5 mg | [Cu]I
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-ethoxycarbonylphenyl)indole | C(C)OC(=O)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C17H15NO2
